US08877934B2
Step A: tert-Butyl N-[2-(furo[3,2-b]pyridin-7-ylamino)-2-oxo-ethyl]carbamate
To a solution of 2-(tert-butoxycarbonylamino)acetic acid (660 mg, 3.77 mmol) in acetonitrile (20 ml) was added HBTU (1.491 g, 3.93 mmol) and the resulting solution was stirred 40 minutes at room temperature. Then triethylamine (0.785 ml, 5.63 mmol) was added and the mixture was stirred another five minutes at room temperature. Next furo[2,3-b]pyridin-4-amine (253 mg, 1.886 mmol) was added and the reaction mixture was stirred at 60° C. over night. The acetonitrile was removed under reduced pressure and the residue was redissolved in dichloromethane (50 ml). The solution in dichloromethane was washed with aqueous 1N NaOH (40 ml). The aqueous phase was extracted with dichloromethane (2×15 ml), the combined organic phases were dried over sodium sulfate and concentrated under reduced pressure to yield 1.03 g of a slightly brown oil. The crude product was purified by column chromatography (silica gel using a gradient of 2 to 6% MeOH in DCM to yield 350 mg of a white foam (1.2 mmol, 64%). MS (ESI) m/z=292.2 [M+1]+.

reactant | 2-(tert-butoxycarbonylamino)acetic acid | 3.77 mmol, 660 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | HBTU | 3.93 mmol, 1.491 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 5.63 mmol, 0.785 ml | C(C)N(CC)CC | C6H15N
reactant | furo[2,3-b]pyridin-4-amine | 1.886 mmol, 253 mg | O1C=CC2=C1N=CC=C2N | C7H6N2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | tert-Butyl N-[2-(furo[3,2-b]pyridin-7-ylamino)-2-oxo-ethyl]carbamate | 1.2 mmol, 350 mg, 64% | O1C=CC2=NC=CC(=C21)NC(CNC(OC(C)(C)C)=O)=O | C14H17N3O4
